US08563565B2
(2) Synthesis of 2-(difluoromethoxy)-4-iodo-3,5-dimethylpyridine
4-iodo-3,5-dimethylpyridin-2-ol (350 mg), 2-(fluorosulfonyl)difluoroacetic acid (0.17 mL), and sodium sulfate (39.9 mg) were added to acetonitrile (5.7 mL). The mixture was stirred at room temperature for 3.5 hours. A saturated aqueous sodium bicarbonate solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was concentrated under reduced pressure to give the title compound (378.6 mg).

reactant | 4-iodo-3,5-dimethylpyridin-2-ol | 350 mg | IC1=C(C(=NC=C1C)O)C | C7H8INO
reactant | 2-(fluorosulfonyl)difluoroacetic acid | 0.17 mL | FS(=O)(=O)C(C(=O)O)(F)F | C2HF3O4S
reactant | sodium sulfate | 39.9 mg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 5.7 mL | C(C)#N | C2H3N
product | 2-(difluoromethoxy)-4-iodo-3,5-dimethylpyridine | 378.6 mg | FC(OC1=NC=C(C(=C1C)I)C)F | C8H8F2INO
